US06156702
Step a: tert-Butyl 2,4-dichloro-3-((2-pyridyl)(hydroxymethyl))benzoate
At -20° C., 4.0 g (39.6 mmol) of diisopropylamine in 120 ml of tetrahydrofuran are stirred for 40 minutes with 25.0 ml (40.0 mmol) of a 1.6 M n-butyllithium solution in hexane. At -75° C., a solution of 10.0 g (40.5 mmol) of tert-butyl 2,4-dichlorobenzoate in 30 ml of tetrahydrofuran is added dropwise, and the mixture is stirred for 1.5 h. A solution of 4.3 g (40.5 mmol) of 2-formylpyridine in 20 ml of tetrahydropyran is added dropwise and the mixture is stirred at room temperature for 2.5 h. The mixture is poured into 500 ml of saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The combined extracts are washed with water, dried over sodium sulfate, filtered and freed from the solvent under reduced pressure. The crude product is purified by silica gel chromatography using cyclohexane/ethyl acetate. Yield: 7.5 g; 1H NMR, δ [ppm], (DMSO-d6): 1.5 (s), 6.5 (m), 7.2 (m); 7.5 (m), 7.9 (m), 8.4 (d)

reactant | diisopropylamine | 39.6 mmol, 4.0 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | tert-butyl 2,4-dichlorobenzoate | 40.5 mmol, 10.0 g | ClC1=C(C(=O)OC(C)(C)C)C=CC(=C1)Cl | C11H12Cl2O2
reactant | 2-formylpyridine | 40.5 mmol, 4.3 g | C(=O)C1=NC=CC=C1 | C6H5NO
reactant | ammonium chloride | 500 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydropyran | 20 ml | O1CCCCC1 | C5H10O
product | tert-Butyl 2,4-dichloro-3-((2-pyridyl)(hydroxymethyl))benzoate | ClC1=C(C(=O)OC(C)(C)C)C=CC(=C1C(O)C1=NC=CC=C1)Cl | C17H17Cl2NO3
